US05360800
2,5-Dihydro-5-methyl-1H-pyrido[4,3-b]indol-1-one
A mixture of 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (500 mg) and 10% palladium oxide on carbon catalyst (50% aqueous paste; 250 mg) was heated at 320° for 10 min. The cooled solid was triturated with ethanol (ca. 100 ml), filtered and the resulting filtrate was evaporated to give the title compound (470 mg), m.p. 242.5°.

reactant | 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 500 mg | CN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C12H12N2O
catalyst | palladium oxide | [Pd]=O
product | 2,5-Dihydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 470 mg | CN1C2=C(C=3C=CC=CC13)C(NC=C2)=O | C12H10N2O
